US05840732
Using 2.55 g (12 mmol) of 5-(3-hydroxypropyl)imidazo-[1,2-a]pyridine hydrochloride, 3.90 ml (28 mmol) of triethylamine and 1.08 ml (14 mmol) of methanesulfonyl chloride, the same procedure as in Reference Example 8 was followed, to yield 5-(3-methanesulfonyloxypropyl)imidazo-[1,2-a]pyridine.

reactant | 5-(3-hydroxypropyl)imidazo-[1,2-a]pyridine hydrochloride | 12 mmol, 2.55 g | Cl.OCCCC1=CC=CC=2N1C=CN2
reactant | triethylamine | 28 mmol, 3.90 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14 mmol, 1.08 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(3-methanesulfonyloxypropyl)imidazo-[1,2-a]pyridine | CS(=O)(=O)OCCCC1=CC=CC=2N1C=CN2 | C11H14N2O3S
